US09085575B2
37.4 ml (770 mmol) of hydrazine hydrate is added to a solution of 3 g (7.7 mmol) of 6-hydroxy-4-(4-methoxyphenyl)-2-(methylthio)-5-oxo-5,6-dihydrobenzo[c][2,7]-naphthyridine-1-carbonitrile dissolved in 80 ml of butan-1-ol and 32 ml of dimethylsulfoxide. The reaction medium is carried at 150° C. for 3 hours and then is allowed to rest at room temperature overnight. The precipitate obtained is filtered and then rinsed with methanol to yield 1.14 g (39%) of 1-amino-7-hydroxy-5-(4-methoxyphenyl)-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-6(7H)-one in the form of a yellow solid.

reactant | hydrazine hydrate | 770 mmol, 37.4 ml | O.NN
reactant | 6-hydroxy-4-(4-methoxyphenyl)-2-(methylthio)-5-oxo-5,6-dihydrobenzo[c][2,7]-naphthyridine-1-carbonitrile | 7.7 mmol, 3 g | ON1C(C=2C(=NC(=C(C2C2=C1C=CC=C2)C#N)SC)C2=CC=C(C=C2)OC)=O | C21H15N3O3S
solvent | butan-1-ol | 80 ml | C(CCC)O | C4H10O
solvent | dimethylsulfoxide | 32 ml | CS(=O)C | C2H6OS
product | 1-amino-7-hydroxy-5-(4-methoxyphenyl)-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-6(7H)-one | 1.14 g, 39% | NC1=NNC=2N=C(C=3C(N(C4=C(C3C21)C=CC=C4)O)=O)C4=CC=C(C=C4)OC | C20H15N5O3
